US06685995B1
To 50 ml of THF was added 3.0 g (13 mmol) of 4-(4-propylcyclohexyl)cyclohexanol, and 5.0 g (16 mmol) of pentafluoropropionic acid anhydride was added dropwise thereto at room temperature. After the mixture was stirred for 1 hour, the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: heptane/toluene =1/1), the solvent was distilled off, and the residue was subjected twice to recrystallization by using heptane to give 1.8 g (4.9 mmol) of pentafluoropropionic acid 4-(4-propyl-cyclohexyl)cyclohexyl ester. Yield of this compound based on 4-(4-propylcyclohexyl)cyclohexanol was 38%.

reactant | 4-(4-propylcyclohexyl)cyclohexanol | 13 mmol, 3.0 g | C(CC)C1CCC(CC1)C1CCC(CC1)O | C15H28O
reactant | pentafluoropropionic acid anhydride | 16 mmol, 5.0 g | FC(C(C(=O)OC(C(C(F)(F)F)(F)F)=O)(F)F)(F)F | C6F10O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | pentafluoropropionic acid 4-(4-propyl-cyclohexyl)cyclohexyl ester | 4.9 mmol, 1.8 g | C(CC)C1CCC(CC1)C1CCC(CC1)OC(C(C(F)(F)F)(F)F)=O | C18H27F5O2
